US07018988B2
(2S,4EZ)-2-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-4-(methoxyimino)-N-pentyl-1-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 1-(1,3-benzodioxol-5-ylmethyl)piperazine the title compound was obtained in 72% purity by LC/MS. MS(ESI+): m/z=474.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 1-(1,3-benzodioxol-5-ylmethyl)piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | (2S,4EZ)-2-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-4-(methoxyimino)-N-pentyl-1-pyrrolidinecarboxamide | O1COC2=C1C=CC(=C2)CN2CCN(CC2)C(=O)[C@H]2N(CC(C2)=NOC)C(=O)NCCCCC | C24H35N5O5
